US05852011
Ethyl 2-[N,N-bis(2-chloroethyl)amino]benzoate
Thionyl chloride (0.8 ml; 11.0 mmol) was added to a solution of 1.0 g (4.0 mmol) of ethyl 2-[N,N-bis(2-hydroxyethyl)amino]benzoate in 5 ml of methylene chloride, followed by stirring at room temperature for 1 hour. After the solvent was distilled out under reduced pressure, methylene chloride was added again in a small amount and was then distilled out under reduced pressure. This procedure was repeated twice. The resultant mixture was concentrated under reduced pressure, whereby 950 mg of a brown oil were obtained (yield: 83%).

reactant | Thionyl chloride | 11.0 mmol, 0.8 ml | S(=O)(Cl)Cl | Cl2OS
reactant | ethyl 2-[N,N-bis(2-hydroxyethyl)amino]benzoate | 4.0 mmol, 1.0 g | OCCN(CCO)C1=C(C(=O)OCC)C=CC=C1 | C13H19NO4
reactant | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | Ethyl 2-[N,N-bis(2-chloroethyl)amino]benzoate | 950 mg, yield: 83% | ClCCN(CCCl)C1=C(C(=O)OCC)C=CC=C1 | C13H17Cl2NO2
